US07989441B2
(S)-Tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester (1C)
To a solution of (S)-3-((S)-4-benzyl-2-oxo-oxazolidine-3-carbonyl)-tetrahydro-pyridazine-1,2-dicarboxylic acid di-tert-butyl ester (1.22 g, 2.5 mmol) in THF (15 mL) at 0° C., is added a solution of LiOH (7 mL, 5% in H2O). After stirring at 0° C. for 2 hours, the reaction mixture is diluted with 15 mL of water and extracted with 20 mL of ether. The ether layer is extracted with 10 mL of saturated NaHCO3. The combined aqueous layers is acidified with saturated NaHSO4 to Ph=2, and extracted with CH2Cl2 (3×20 mL). The combined organic layers is dried over Na2SO4 and concentrated to give clued product (0.83 g) as a pale gum without further purification for next step reaction. (NMR and MS data confirmed, U-3133-56-22).

reactant | (S)-3-((S)-4-benzyl-2-oxo-oxazolidine-3-carbonyl)-tetrahydro-pyridazine-1,2-dicarboxylic acid di-tert-butyl ester | 2.5 mmol, 1.22 g | C(C)(C)(C)OC(=O)N1N([C@@H](CCC1)C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C25H35N3O7
reactant | LiOH | 7 mL | [Li+].[OH-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | (S)-Tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester | 0.83 g | C(C)(C)(C)OC(=O)N1N([C@@H](CCC1)C(=O)O)C(=O)OC(C)(C)C | C15H26N2O6
